* /Users/ouikujie/Documents/ubuntu/test/shortCircuit/input/sin_C_L_R.asc
V1 N001 0 SINE(0 10 1k)
R1 N002 N001 100
R2 N004 0 50
C1 N003 N004 1µ
L1 N002 N004 50m
I1 N002 N004 10m
V2 N002 N003 SINE(0 0.5 5k)
.tran 0 4ms 0 1us
.backanno
.end
